US07897631B2
As in the synthesis of N-(2-azidoethyl)tetradecanamide, 3,5-difluorobenzoyl chloride (0.219 g, 1.24 mmol) was reacted with 2-azidoethanamine (0.107 g, 1.24 mmol) and triethylamine (0.251 g, 2.48 mmol) in dichloromethane (5 mL) to give N-(2-azidoethyl)-3,5-difluorobenzamide (0.280 g, 59%). 1H NMR (300 MHz, CDCl3) δ 7.32 (s, 2H), 7.29 (s, 1H), 6.91 (t, 1H), 3.58 (q, 2H), 3.51 (t, 2H) ppm; 13C NMR (75 MHz, CDCl3) δ 165.9, 164.7, 161.5, 161.4, 137.6, 110.7, 106.9, 50.7, 39.9 ppm; HRMS (ESI) calcd for C9H8F2N4O2S (M+) 226.0666. found 226.0662.

reactant | N-(2-azidoethyl)tetradecanamide | N(=[N+]=[N-])CCNC(CCCCCCCCCCCCC)=O | C16H32N4O
reactant | 3,5-difluorobenzoyl chloride | 1.24 mmol, 0.219 g | FC=1C=C(C(=O)Cl)C=C(C1)F | C7H3ClF2O
reactant | 2-azidoethanamine | 1.24 mmol, 0.107 g | N(=[N+]=[N-])CCN | C2H6N4
reactant | triethylamine | 2.48 mmol, 0.251 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-azidoethyl)-3,5-difluorobenzamide | 0.280 g, 59% | N(=[N+]=[N-])CCNC(C1=CC(=CC(=C1)F)F)=O | C9H8F2N4O
